US04035363
To 20 ml. of dioxane are added 5 g. of ortho-methoxyphenol, 9 ml. of 37 % formalin and 6.7 g. of para-methoxyphenethylamine. The mixture is heated on reflux for 4 hours and concentrated to dryness under reduced pressure. The residue is purified by column chromatography on silica gel with a mixture of acetone and benzene (1:4). The resultant oily substance is left standing at cool place for one month to be solidified. Recrystallization from petroleum ether yields 8-methoxy-3-(4-methoxyphenethyl)-3,4-dihydro-2H-1,3-benzoxazine as melting at 69°-70° C.

reactant | ortho-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | formalin | C=O | CH2O
reactant | para-methoxyphenethylamine | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 8-methoxy-3-(4-methoxyphenethyl)-3,4-dihydro-2H-1,3-benzoxazine | COC1=CC=CC=2CN(COC21)CCC2=CC=C(C=C2)OC | C18H21NO3
